US05612377
1-Cyclohexyl-1-hydroxy-3-[4-(methylthio)phenyl]urea
Using the general method of Compound 1, N-cyclohexylhydroxylamine hydrochloride (1.5 g, 10 mmol) was reacted with 4-(methylthio)phenyl isocyanate (1.6 g, 10 mmol) to provide 0.60 g of the desired product as a white solid m.p. 151°-153° C. Analysis: Calculated for C14H20N2O2S: %C, 59.97; %H, 7.19; %N, 9.99; Found: %C, 60.06; %H, 7.14; %N, 9.95.

reactant | N-cyclohexylhydroxylamine hydrochloride | 10 mmol, 1.5 g | Cl.C1(CCCCC1)NO
reactant | 4-(methylthio)phenyl isocyanate | 10 mmol, 1.6 g | CSC1=CC=C(C=C1)N=C=O | C8H7NOS
product | 1-Cyclohexyl-1-hydroxy-3-[4-(methylthio)phenyl]urea | 0.60 g | C1(CCCCC1)N(C(=O)NC1=CC=C(C=C1)SC)O | C14H20N2O2S
